US04359475
Oxalyl chloride (2.0 ml) in methylene chloride (40 ml) was placed in a flask and cooled to -50° C. to -60° C. Dimethyl sulfoxide (3.0 ml) in 10 ml of methylene chloride was then added followed by 2.3 g of 1-(2-hydroxy-4-phenylbutyl)imidazole dissolved in 20 ml of methylene chloride containing 0.5 ml of dimethyl sulfoxide. The reaction mixture was stirred for 30 minutes at the initial temperature. Triethylamine (7 ml) was added to the reaction mixture which was then allowed to warm to room temperature. Water was added, the organic layer separated and the aqueous layer extracted with methylene chloride (2×50 ml). The organic layers were dried over MgSO4, the solvent removed and the residue recrystallized from ethyl acetate to give 1-(4-phenylbutan-2-on-1-yl)imidazole. The hydrochloride salt crystallized from methanol/ethyl acetate had a melting point of 172°-173° C.

reactant | Oxalyl chloride | 2.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(2-hydroxy-4-phenylbutyl)imidazole | 2.3 g | OC(CN1C=NC=C1)CCC1=CC=CC=C1 | C13H16N2O
reactant | Triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | Dimethyl sulfoxide | 3.0 ml | CS(=O)C | C2H6OS
product | 1-(4-phenylbutan-2-on-1-yl)imidazole | C1(=CC=CC=C1)CCC(CN1C=NC=C1)=O | C13H14N2O
